US07696195B2
2.4b) (R)-1-(7-methyl-1H-benzimidazol-5-ylmethyl)-2-oxo-2-(4-piperazin-1-yl-piperidin-1-yl)-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate
67 mg (0.08 mmol) (R)-2-[4-(4-benzyl-piperazin-1-yl)-piperidin-1-yl]-1-(7-methyl-1H-benzimidazol-5-ylmethyl)-2-oxo-ethyl 4-(2-oxo-1,2,4,5,-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate were dissolved in 10 mL MeOH and combined with 30 mg 10% Pd/C. The mixture was hydrogenated for 3 h in a Parr apparatus at 50° C. and 50 psi hydrogen pressure. Then the catalyst was filtered off and the filtrate was evaporated down i.vac. The residue was purified by HPLC, the fractions containing the product were combined and lyophilised.

reactant | (R)-2-[4-(4-benzyl-piperazin-1-yl)-piperidin-1-yl]-1-(7-methyl-1H-benzimidazol-5-ylmethyl)-2-oxo-ethyl 4-(2-oxo-1,2,4,5,-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | 0.08 mmol, 67 mg | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@@H](C(=O)N1CCC(CC1)N1CCN(CC1)CC1=CC=CC=C1)CC1=CC3=C(NC=N3)C(=C1)C)C=CC=C2 | C42H52N8O4
reactant | hydrogen | [H][H] | H2
solvent | MeOH | 10 mL | CO | CH4O
catalyst | Pd/C | 30 mg | [Pd] | Pd
product | (R)-1-(7-methyl-1H-benzimidazol-5-ylmethyl)-2-oxo-2-(4-piperazin-1-yl-piperidin-1-yl)-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@@H](C(N1CCC(CC1)N1CCNCC1)=O)CC1=CC3=C(NC=N3)C(=C1)C)C=CC=C2 | C35H46N8O4
